US04472425
EXAMPLE 13: N-(2,4-Dimethylthien-3-yl)-methoxyacetamid
To 12.7 g (0.1 mol) of 2,4-dimethyl-3-aminothiophene, 13.84 g (0.1 mol) of K2CO3, 50 ml of water and 160 ml of methylene chloride are added without cooling 10.8 g (0.1 mol) of methoxyacetyl chloride.

reactant | 2,4-dimethyl-3-aminothiophene | 0.1 mol, 12.7 g | CC=1SC=C(C1N)C | C6H9NS
reactant | K2CO3 | 0.1 mol, 13.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 ml | O | H2O
reactant | methoxyacetyl chloride | 0.1 mol, 10.8 g | COCC(=O)Cl | C3H5ClO2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | N-(2,4-Dimethylthien-3-yl)-methoxyacetamid | CC=1SC=C(C1NC(COC)=O)C | C9H13NO2S
